US06403595B1
1-[4-Hydroxy-1-(4-pyridyl)piperidin-4-ylmethy]-2-piperazinone Hydrochloride
To a solution of 4-benzyloxycarbonyl-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-oxo-1,2,3,4-tetrahydropyrazine (6.93 g) in methanol (100 ml) were added 4N hydrochloric acid in ethyl acetate (4 ml) and 10% palladium on carbon (2.0 g), and the mixture was stirred, under hydrogen atmosphere, at room temperature for 15 hours. The catalyst was removed by filtration, and the filtrate was concentrated and dried under reduced pressure to give colorless syrup of the title compound (5.39 g).

reactant | 4-benzyloxycarbonyl-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-oxo-1,2,3,4-tetrahydropyrazine | 6.93 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)CC1(CCN(CC1)C1=CC=NC=C1)O)=O | C23H26N4O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
product | 1-[4-Hydroxy-1-(4-pyridyl)piperidin-4-ylmethy]-2-piperazinone Hydrochloride | 5.39 g | Cl.OC1(CCN(CC1)C1=CC=NC=C1)CN1C(CNCC1)=O | InChI=1S/C15H22N4O2.ClH/c20-14-11-17-7-10-19(14)12-15(21)3-8-18(9-4-15)13-1-5-16-6-2-13;/h1-2,5-6,17,21H,3-4,7-12H2;1H
